US07420083B2
Synthesis of 4-[3-({[(1E)-1,1′-biphenyl-4-ylmethylidene]amino}oxy)propoxy]-2-{[2-(trifluoromethyl)benzoyl]amino}benzoic Acid
The title compound (0.193 g, 92%) was prepared as a white solid from 4-(3-bromo-propoxy)-2-(2-trifluoromethyl-benzoylamino)-benzoic acid methyl ester and Biphenyl-4-carbaldehyde oxime using a procedure similar to step 1 of example 6. mp=170.5-172.5° C.; mass spectrum API-ES, (M−H) m/z 561. 1H NMR (400 MHz, DMSO-d6); δ 13.40 (bs, 1H), 12.00 (bs, 1H), 8.32 (s, 1H), 8.27 (d, 1H), 7.98 (d, 1H), 7.88 (d, 1H), 7.81 (m, 2H), 7.76 (m, 1H), 7.68 (m, 6H), 7.46 (m, 2H), 7.38 (m, 1H), 6.82 (dd, 1H), 4.32 (t, 2H), 4.20 (t, 2H), 2.20 (m, 2H). Elemental analysis: Calcd. for C31H25F3N2O5: C, 66.19; H, 4.48; N, 4.98, Found: C, 65.26; H, 4.49; N, 4.77.

reactant | 4-(3-bromo-propoxy)-2-(2-trifluoromethyl-benzoylamino)-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OCCCBr)NC(C1=C(C=CC=C1)C(F)(F)F)=O)=O | C19H17BrF3NO4
reactant | Biphenyl-4-carbaldehyde oxime | C1(=CC=C(C=C1)C=NO)C1=CC=CC=C1 | C13H11NO
product | 4-[3-({[(1E)-1,1′-biphenyl-4-ylmethylidene]amino}oxy)propoxy]-2-{[2-(trifluoromethyl)benzoyl]amino}benzoic Acid | 0.193 g, 92% | C1(=CC=C(C=C1)\C=N\OCCCOC1=CC(=C(C(=O)O)C=C1)NC(C1=C(C=CC=C1)C(F)(F)F)=O)C1=CC=CC=C1 | C31H25F3N2O5
